US07728003B2
Step A. 2-(3-Dimethylamino-propylamino)-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
Using the procedure outlined in Example 1(Step F) the title compound was prepared from N1,N1-dimethyl-propane-1,3-diamine (4.6 μL, 0.036 mmol) and 8-indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (from Example 1(Step E), 15 mg, 0.036 mmol). 9.7 mg of 2-(3-dimethylamino-propylamino)-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester was obtained as a white solid. 1H NMR (400 MHz, CDCl3) δ (ppm): 9.23 (s, 1H), 8.46 (s, 1H), 7.34 (d, 1H), 7.23 (s, 1H), 7.13 (d, 1H), 6.77 (br, 1H), (m, 2H), 2.99 (m, 4H), 2.19 (m, 10H), 1.60 (m, 2H), 1.37 (t, 3H). Mass Spectrum (LCMS, ESI pos.) Calcd. For C24H29N5O3: 436.23 (M+H). Found: 436.4.

reactant | N1,N1-dimethyl-propane-1,3-diamine | 0.036 mmol, 4.6 μL | CN(CCCN)C | C5H14N2
reactant | 8-indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C=1C=C2CCCC2=CC1)=O | C20H19N3O5S
product | 2-(3-dimethylamino-propylamino)-8-indan-5-yl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 9.7 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NCCCN(C)C)N(C1)C=1C=C2CCCC2=CC1)=O | C24H29N5O3
